US07968570B2
A mixture of 7-methyl-5-bromo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.100 g, 0.25 mmol), 30% sodium methoxide-methanol (0.5 mL), and CuBr (0.005 g, 0.04 mmol) in methanol (4 mL) was stirred at 100° C. for 1 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 7-methyl-5-methoxy-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.035 g, 41%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.80 (s, 3H), 3.91 (s, 3H), 4.26 (s, 2H), 4.83 (s, 2H), 6.82 (d, 2H), 7.26 (d, 2H), 7.42 (d, 2H).

reactant | 7-methyl-5-bromo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.25 mmol, 0.100 g | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)Br | C17H13BrF3NO2
reactant | sodium methoxide methanol | 0.5 mL | C[O-].[Na+].CO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | 7-methyl-5-methoxy-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.035 g, 41% | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)OC | C18H16F3NO3
